US05223518
Step a: 2-(2',2'-Dibromoethenyl)-thiophene
Mix carbon tetrabromide (49.8 g, 150 mmol) and methylene chloride (75 mL) and cool to 0° C. Add, by dropwise addition, a solution of triphenylphosphine (78.6 g, 300 mmol) in methylene chloride (75 mL). Stir at 0° C. for 30 minutes. Add, by dropwise addition, a solution of 2-thiophene-carboxaldehyde (8.75 g, 78.8 mmol) in methylene chloride (75 mL). Remove the cooling bath and stir at room temperature until the reaction is complete. Pour onto ethyl ether and water, separate the organic layer and dry (MgSO4). Filter and evaporate the solvent in vacuo. Purify by silica gel chromatography to yield the title compound.

reactant | carbon tetrabromide | 150 mmol, 49.8 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 300 mmol, 78.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-thiophene-carboxaldehyde | 78.8 mmol, 8.75 g | S1C(=CC=C1)C=O | C5H4OS
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | 2-(2',2'-Dibromoethenyl)-thiophene | BrC(=CC=1SC=CC1)Br | C6H4Br2S
